US04284631
A mixture of ethyl 2-(4-methylbenzyloxyimino)-3-oxobutyrate (syn isomer, 74.08 g.), sulfuryl chloride (41.70 g.) and acetic acid (75 ml.) was stirred at at 40° to 42° C. for 4 hours. Nitrogen gas was bubbled into the reaction mixture. After adding the mixture into ice water, the mixture was extracted with methylene chloride. The extract was washed with sodium bicarbonate saturated aqueous solution and sodium chloride saturated aqueous solution in turn and dried over magnesium sulfate. After removing the solvent in vacuo, the residue was allowed to stand in a refrigerator overnight. The precipitates were removed by filtration, and the filtrate was concentrated in vacuo. The residue was subjected to column chromatography on silica gel and eluted with benzene and ethyl acetate. The eluate was concentrated in vacuo to give ethyl 4-chloro-2-(4-methylbenzyloxyimino)-3-oxobutyrate (syn isomer, 19.9 g.).

reactant | ethyl 2-(4-methylbenzyloxyimino)-3-oxobutyrate | 74.08 g | CC1=CC=C(CON=C(C(=O)OCC)C(C)=O)C=C1 | C14H17NO4
reactant | sulfuryl chloride | 41.70 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chloro-2-(4-methylbenzyloxyimino)-3-oxobutyrate | 19.9 g | ClCC(C(C(=O)OCC)=NOCC1=CC=C(C=C1)C)=O | C14H16ClNO4
